US06960418B2
A 6.8 g (14 mmol) quantity of 1,3-bis(4,4′-dimethyl-diphenylamino)-4-hydroxybenzene and 32 ml (0.4 mol) of epichlorohydrin (commercially obtained from Aldrich, Milwaukee, Wis.) were added to a 50 ml 3-neck round bottom flask equipped with reflux condenser, thermometer and mechanical stirrer to form a reaction mixture. The reaction mixture was stirred vigorously at 35-40° C. for 7 hours. While the reaction mixture was stirring, 2.7 g (0.04 mol) of powdered 85% potassium hydroxide and 0.7 g (5 mmol) of anhydrous sodium sulfate were added in two portions, with a temporary cooling of the reaction mixture to 20-25° C. prior to each addition. After termination of the reaction, the mixture was cooled to room temperature and filtered. The organic part of the mixture was treated with diethylether and washed with distilled water until the wash water had a neutral pH. After the organic solution was dried over anhydrous magnesium sulfate, treated with activated charcoal, and filtered, the solvent was removed. The residue was purified by column chromatography (silica gel, grade 62, 60-200 mesh, 150 Å, Aldrich) using a mixture of acetone:hexane in a volume ratio of 1:4 as the eluant. Fractions containing the product were collected and the solvent was evaporated to afford 4.8 g (63%) of glycidyl ether of 1,3-bis(4,4′-dirnethyldiphenylamino)phenol (Compound 2). A 1H NMR spectrum (250 MHz, CDCl3) yielded chemical shifts, in ppm, of: 7.05-6.70 (m, 19H, Ar); 3.84 (d, J=4.0 Hz, OCH2); 2.84 (m, 1H, CH); 2.33 (dd, 1H, one of CH2 of oxirane); and 2.27 (s, 12H, CH3). An elemental analysis resulted in the following values in weight %: C 82.08; H 6.61; N 5.07, which compared with calculated values for C37H36N2O2 in weight percent of: C82.19; H 6.71; N 5.18.

reactant | epichlorohydrin | 0.4 mol, 32 ml | C(Cl)C1CO1 | C3H5ClO
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium sulfate | 5 mmol, 0.7 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
product | glycidyl ether | 4.8 g, 63% | C(C1CO1)OCC1CO1 | C6H10O3
